US08614206B2
To a solution of compound ethyl 5-amino-2-phenylthiazole-4-carboxylate (248 mg, 1 mmol) in CH3CN (10 mL) was added DMAP (6 mg, 0.05 mmol) followed by (Boc)2O (262 mg, 1.2 mmol). The reaction mixture was maintained at ambient temperature for additional 30 min. The mixture was then evaporated in vacuo to give ethyl 5-(tert-butoxycarbonylamino)-2-phenylthiazole-4-carboxylate as a red solid (340 mg, 95%) that was used at the next step without further purification.

reactant | ethyl 5-amino-2-phenylthiazole-4-carboxylate | 1 mmol, 248 mg | NC1=C(N=C(S1)C1=CC=CC=C1)C(=O)OCC | C12H12N2O2S
reactant | (Boc)2O | 1.2 mmol, 262 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | 10 mL | CC#N | C2H3N
catalyst | DMAP | 0.05 mmol, 6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | ethyl 5-(tert-butoxycarbonylamino)-2-phenylthiazole-4-carboxylate | 340 mg, 95% | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=CC=CC=C1)C(=O)OCC | C17H20N2O4S
